data/oMe_Silver.jsonl
{"reaction_id": "NR-323_1-C(F)(F)F_2-C(C)(C)C_3-CCCC(C)C_4-c1ccccc1_5-CCCC(C)C_6-C(F)(F)F","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(C(F)(F)F)(C(C)(C)C)=C(CCCC(C)C)C(c1ccccc1)(CCCC(C)C)OCC(F)(F)F","CCCC[Li]"],"products_smiles": ["OC(C(F)(F)F)C(C(F)(F)F)(C(C)(C)C)C(CCCC(C)C)=C(c1ccccc1)(CCCC(C)C)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(C(C)(C)C)=C(CCCC(C)C)C(c1ccccc1)(CCCC(C)C)O[CH-]C(F)(F)F","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(C(F)(F)F)C(C(F)(F)F)(C(C)(C)C)C(CCCC(C)C)=C(c1ccccc1)(CCCC(C)C)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(F)(F)F)C(C(F)(F)F)(C(C)(C)C)C(CCCC(C)C)=C(c1ccccc1)(CCCC(C)C)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
{"reaction_id": "NR-204_2-C3CCCCC3_3-CC","level": "hard","name": "Nenitzescu Indole Synthesis","reactants_smiles": ["O=C1C=CC(=O)C=C1","C=C(N([H])C3CCCCC3)C(=O)OCC"],"products_smiles": ["C1=C(O)C=CC2=C1C(C(=O)CC)=CN(C3CCCCC3)2"],"conditions": "Acetic acid","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC(C1C(C(C2=CC=CC=C2)=[NH+](C3CCCCC3))C(=O)O(CC))=O)O","step_weight": 0,"rationale": "The β-aminocrotonate enamine acts as a nucleophile, attacking the electrophilic β-carbon of 1,4-benzoquinone due to strong conjugation and electron withdrawal by the carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC(C1C(=C(C2=CC=CC=C2)[NH](C3CCCCC3))C(=O)O(CC))=O)O","step_weight": 0,"rationale": "Proton transfer stabilizes the adduct by neutralizing charge and preparing the intermediate for intramolecular cyclization under acidic conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(C3CCCCC3))C(=O)O(CC))O)O","step_weight": 0,"rationale": "The amine nitrogen attacks the carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by conjugation and acid activation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(C3CCCCC3))C(=O)O(CC))[OH2+])O","step_weight": 0,"rationale": "Protonation of the hydroxyl group creates a good leaving group, facilitating subsequent elimination to form the indole ring system."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)[N+]=3(C3CCCCC3))C(=O)O(CC)))O","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is an excellent leaving group, driving formation of the iminium intermediate and partial ring aromatization."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1=C(C=CC3(=C1C(=C(C2=CC=CC=C2)N3(C3CCCCC3))C(=O)O(CC)))O","step_weight": 0,"rationale": "Deprotonation restores full aromaticity of the indole core, a thermodynamically favorable step that completes the synthesis."}],"description": "Under acidic conditions, the β-aminocrotonate undergoes Michael addition to 1,4-benzoquinone, forming a conjugated adduct. Subsequent intramolecular nucleophilic attack and proton transfers enable cyclization to the indole core, followed by elimination steps to restore aromaticity and yield the 5-hydroxyindole product."}
